US07651639B2
To 1000 g of 10% cresol sulfonic acid aqueous solution stirred at room temperature, 30 g of calcium hydroxide was added. The stirring was continued while measuring the pH value. At the time when the pH value reached 6, approximately, filtration was done by using a 0.4 μm glass filter to remove the insoluble components, so as to obtain a calcium cresolsulfonate aqueous solution.

reactant | cresol sulfonic acid | 1000 g | C=1(C(=CC=CC1O)S(=O)(=O)O)C | C7H8O4S
reactant | calcium hydroxide | 30 g | [OH-].[Ca+2].[OH-]
product | calcium cresolsulfonate | C=1(C(=CC=CC1O)S(=O)(=O)[O-])C.[Ca+2].C=1(C(=CC=CC1O)S(=O)(=O)[O-])C | InChI=1S/2C7H8O4S.Ca/c2*1-5-6(8)3-2-4-7(5)12(9,10)11;/h2*2-4,8H,1H3,(H,9,10,11);/q;;+2/p-2
